US08017626B2
Method 9: Methyl 7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate
To a 50 mL RBF was added sodium hydride (0.15 g, 3.7 mmol) and N,N-dimethylformamide (50 mL, 3.1 mmol) under nitrogen. The mixture was cooled with an ice-water bath for 10 min, and then dimethyl malonate (6.4 mL, 56 mmol) was added over 3 min. A mixture of 7-bromo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (0.80 g, 3.1 mmol) in DMF (5.0 mL) was added, and then the reaction was placed in oil bath at 120° C. for 3 hours. The reaction was cooled to room temperature, and water (25 mL) was added to the mixture. A white solid was collected by filtration and washed with water (100 mL), followed by ether (100 mL). The white solid was placed in vacuum oven at 50° C. for 6 h to afford the desired product as a white solid (0.65 g, 67%).

reactant | sodium hydride | 3.7 mmol, 0.15 g | [H-].[Na+]
reactant | dimethyl malonate | 56 mmol, 6.4 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 7-bromo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 3.1 mmol, 0.80 g | BrC=1C=CC2=C(N(C(OC2=O)=O)C)C1 | C9H6BrNO3
reactant | water | 25 mL | O | H2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 3.1 mmol, 50 mL | CN(C=O)C | C3H7NO
product | Methyl 7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | 0.65 g, 67% | BrC1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)OC)O | C12H10BrNO4
